US05665718
78 g (290 mmol) of (S)-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamide were suspended in 380 ml of dioxan and 68 ml of pyridine and treated dropwise at 0° with 59 ml (424 mmol) of trifluoroacetic anhydride. After stirring at 50° for two hours the reaction mixture was poured into 2 l of ice-water and the crystals were filtered off under suction, rinsed with water and dried. There were obtained 60 g (82%) of (S)-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carbonitrile of m.p. 232°-234°.

reactant | (S)-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamide | 290 mmol, 78 g | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C(=O)N)CC2 | C14H12N4O2
reactant | pyridine | 68 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 424 mmol, 59 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dioxan | 380 ml | O1CCOCC1 | C4H8O2
product | (S)-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carbonitrile | 60 g, 82% | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C#N)CC2 | C14H10N4O
